US03934008
2. H-Gln-Asn-Phe-OCH3 hydrochloride
14.1 g of Z-Gln-Asn-Phe-OCH3 are hydrogenated at 45°C in 800 ml of methanol with the addition of 8.5 ml of 3N-hydrogen chloride in dioxan and 2.4 g of 10% palladium carbon. When the hydrogen uptake ceases, the batch is filtered and evaporated. The residue is processed without purification.

reactant | Z-Gln-Asn-Phe-OCH3 | 14.1 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C27H33N5O8
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 800 ml | CO | CH4O
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | palladium carbon | 2.4 g | [C].[Pd]
product | H-Gln-Asn-Phe-OCH3 hydrochloride | N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC.Cl | InChI=1S/C19H27N5O6.ClH/c1-30-19(29)14(9-11-5-3-2-4-6-11)24-18(28)13(10-16(22)26)23-17(27)12(20)7-8-15(21)25;/h2-6,12-14H,7-10,20H2,1H3,(H2,21,25)(H2,22,26)(H,23,27)(H,24,28);1H/t12-,13-,14-;/m0./s1
